US07566803B2
Preparation of 4-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}-2-methylbenzoic acid
To a mixture of 4-{1-[4-(3,3-dimethyl-2-hydroxybutoxy)-3-methylphenyl]-1-ethylpropyl}-2-methylbenzoic acid, Example 1, (0.50 g, 1.22 mmol) in CH2Cl2 (10 mL) is added a solution of the Dess-Martin reagent (0.57 g, 1.34 mmol) in CH2CL2 (10 mL) dropwise and stirred for 2 h. The reaction is diluted with EtOAc (100 mL), washed with 10% Na2SO3 (2×20 ml), 0.1 M HCl (20 ml), and H2O (20 ml). The organic layer is MgSO4 dried, and concentrated to give the title compound (0.48 g, 1.17 mmol, 95%).

reactant | 4-{1-[4-(3,3-dimethyl-2-hydroxybutoxy)-3-methylphenyl]-1-ethylpropyl}-2-methylbenzoic acid | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)O)C=C1)C)C)O)(C)C | C26H36O4
reactant | Dess-Martin reagent | 1.34 mmol, 0.57 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-{1-[4-(3,3-dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}-2-methylbenzoic acid | 1.17 mmol, 0.48 g, 95% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)O)C=C1)C)C)=O)(C)C | C26H34O4
